US09145414B2
Trimethyloxonium tetrafluoroborate (1.5 g) was added to a solution of 7-bromo-5-nitro-1H-indazole (1.21 g) in ethyl acetate (12 mL), and the reaction solution was stirred at room temperature for 6 hours. After dilution with ethyl acetate, the reaction solution was washed successively with water and a saturated saline solution and then dried over anhydrous sodium sulfate. The solvent was evaporated under vacuum, ethyl acetate and isopropyl ether were added to the resultant residue, and the deposited precipitate was filtrated to obtain 7-bromo-2-methyl-5-nitro-2H-indazole as a light yellow solid.

reactant | Trimethyloxonium tetrafluoroborate | 1.5 g | F[B-](F)(F)F.C[O+](C)C
reactant | 7-bromo-5-nitro-1H-indazole | 1.21 g | BrC=1C=C(C=C2C=NNC12)[N+](=O)[O-] | C7H4BrN3O2
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
product | 7-bromo-2-methyl-5-nitro-2H-indazole | BrC1=CC(=CC2=CN(N=C12)C)[N+](=O)[O-] | C8H6BrN3O2
